US08541588B2
To a slurry of 2-aminothiazole (23.88 g, 0.2384 mol) in methylene chloride (150 mL) and pyridine (38.0 mL, 0.470 mol) was added dropwise a solution of 3,4-difluorobenzenesulphonyl chloride (25.0 g, 0.118 mol) in 10 mL of methylene chloride. After stirring for 48 hours the reaction was diluted with more dichloromethane and extracted with 1N HCl. The organic layer was dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash column chromatography to give 3,4-difluoro-N-(thiazol-2-yl)benzenesulfonamide as a white solid. LCMS Rt=1.24 minutes MS m/z 277 [MH]+

reactant | 2-aminothiazole | 0.2384 mol, 23.88 g | NC=1SC=CN1 | C3H4N2S
reactant | pyridine | 0.470 mol, 38.0 mL | N1=CC=CC=C1 | C5H5N
reactant | 3,4-difluorobenzenesulphonyl chloride | 0.118 mol, 25.0 g | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,4-difluoro-N-(thiazol-2-yl)benzenesulfonamide | FC=1C=C(C=CC1F)S(=O)(=O)NC=1SC=CN1 | C9H6F2N2O2S2
